US06660753B2
In a similar fashion, Pd(PPh3)4 (25 mg, 0.022 mmol) was added to a solution of hexamethylditin (163 mg, 0.50 mmol) and 5-fluoro-2-bromopyridine (87 mg, 0.49 mmol) in toulene (4 mL) under argon. The resulting solution was stirred at 80° C. for 15 h. After cooling to room temperature, a second portion of Pd(PPh3)4 (25 mg, 0.022 mmol) and 3-(5-bromofuran-2-yl)-benzonitrile (105 mg, 0.42 mmol) were added and the resulting solution was stirred at 110° C. for 48 h. After cooling to room temperature, the mixture was diluted with dichloromethane and passed through a 1 g silica gel SPE tube using dichloromethane to elute the product. Flash chromatography (silica gel, 50-100% dichloromethane in hexane) afforded 48.4 mg (43%) of 3-(5-(5-fluoro-2-pyridyl)-2-furyl)-benzonitrile (pure by GC/MS). 1H-NMR (CDCl3), δ (ppm): 8.48 (d, 1H), 8.03 (s, 1H), 7.95 (m, 1H), 7.81 (m, 1H), 7.51 (m, 3H), 7.11 (d, 1H), 6.87 (d, 1H).

reactant | hexamethylditin | 0.50 mmol, 163 mg | C[Sn](C)C.C[Sn](C)C
reactant | 5-fluoro-2-bromopyridine | 0.49 mmol, 87 mg | FC=1C=CC(=NC1)Br | C5H3BrFN
reactant | 3-(5-bromofuran-2-yl)-benzonitrile | 0.42 mmol, 105 mg | BrC1=CC=C(O1)C=1C=C(C#N)C=CC1 | C11H6BrNO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 0.022 mmol, 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-(5-fluoro-2-pyridyl)-2-furyl)-benzonitrile | 48.4 mg, 43% | FC=1C=CC(=NC1)C1=CC=C(O1)C=1C=C(C#N)C=CC1 | C16H9FN2O
